US05232913
[S-(2-carbethoxypropyl)glutathione]
In 100 ml of water is dissolved 6.2 g of glutathione and the solution is adjusted to pH 7 with 2N-sodium hydroxide. To this solution is added 4 ml of ethyl methacrylate and the mixture is stirred at room temperature for 48 hours. Thereafter, 4.4 g of copper acetate is added and dissolved and the precipitated copper salt is collected by filtration and rinsed with water. This copper salt is suspended in 150 ml of water and hydrogen sulfide is bubbled through the suspension with stirring to precipitate the copper sulfide. This copper sulfide is filtered off and the filtrate is concentrated. The resulting white crystals are recovered by filtration and recrystallized from water to give 4.5 g of needlets melting at 193°-194° C. (decompn.) TLC, silica gel Rf=0.28 (n-butanol-acetic acid-water=4:1:1)

reactant | glutathione | 6.2 g | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl methacrylate | 4 ml | C(C(=C)C)(=O)OCC | C6H10O2
solvent | water | 100 ml | O | H2O
catalyst | copper acetate | 4.4 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | S-(2-carbethoxypropyl)glutathione | C(=O)(OCC)C(CSC[C@H](NC(CC[C@H](N)C(=O)O)=O)C(=O)NCC(=O)O)C | C16H27N3O8S
